US07727992B2
2-Amino-6-fluoro-5-(1-methyl-2-oxo-1,2-dihydro-pyridin-4-yl)-3-nitro-benzoic acid methyl ester:
To a solution of 2-amino-5-bromo-6-fluoro-3-nitro-benzoic acid methyl ester (1.0 g, 3.4 mmol) in dioxane (25 mL), under nitrogen atmosphere, was added bispinacoladaboron (1.3 g, 5.1 mmol), dichloro[1,1′-bis(diphenylphosphine)ferrocene]palladium (II) dichlormethane adduct (0.125 g, 0.17 mmol), and potassium acetate (1.0 g, 10.2 mmol). The resulting mixture was heated at reflux for 18 hours, cooled to room temperature, diluted with ethyl acetate (50 ml) and filtered through Celite®. The resulting solid was triturated with hexanes (40 ml) three times to afford 0.515 g of 2-amino-6-fluoro-3-nitro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoic acid methyl ester. To a mixture of 2-amino-6-fluoro-3-nitro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoic acid methyl ester in ethylene glycol dimethyl ether (10 ml) was added trifluoro-methanesulfonic acid 1-methyl-2-oxo-1,2-dihydro-pyridin-4-yl ester (0.39 g, 1.5 mmol), lithium chloride (0.25 g, 6.0 mmol), sodium carbonate (1.1 ml, 2.2 mmol of 2M), and tetrakistriphenylphosphine palladium (0.18 g, 0.15 mmol). The resulting mixture was heated to 90° C. and allowed to stir for 18 hours. After cooling and concentration in vacuo, the residue was purified by chromatography (Silica Gel 0.5% methanol/dichloromethane to 2% methanol/dichloromethane) to provide the title compound (0.275 g, 25%). 1H NMR (500 MHz, CDCl3) δ 3.58 (s, 3H), 4.03 (s, 3H), 6.30 (d, 1H), 7.32 (d, 1H), 8.45 (br s, 2H), 8.53 (d, 1H)

reactant | 2-amino-6-fluoro-3-nitro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoic acid methyl ester | COC(C1=C(C(=CC(=C1F)B1OC(C(O1)(C)C)(C)C)[N+](=O)[O-])N)=O | C14H18BFN2O6
reactant | trifluoro-methanesulfonic acid 1-methyl-2-oxo-1,2-dihydro-pyridin-4-yl ester | 1.5 mmol, 0.39 g | CN1C(C=C(C=C1)OS(=O)(=O)C(F)(F)F)=O | C7H6F3NO4S
reactant | lithium chloride | 6.0 mmol, 0.25 g | [Cl-].[Li+]
reactant | sodium carbonate | 2.2 mmol, 2M, 1.1 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 10 ml | COCCOC | C4H10O2
product | 2-Amino-6-fluoro-5-(1-methyl-2-oxo-1,2-dihydro-pyridin-4-yl)-3-nitro-benzoic acid methyl ester | 0.275 g, 25% | COC(C1=C(C(=CC(=C1F)C1=CC(N(C=C1)C)=O)[N+](=O)[O-])N)=O | C14H12FN3O5
